US08975265B2
Step 6: 1-[4-(5-methyl-3-phenylimidazo[1,2-a]pyridin-2-yl)phenyl]cyclobutanamine
To a mixture of crude tert-butyl {1-[4-(5-methyl-3-phenylimidazo[1,2-a]pyridin-2-yl)phenyl]cyclobutyl}carbamate (49 mg) in DCM (0.42 mL) and methanol (0.26 mL) was added a solution of 4 M hydrogen chloride in dioxane (0.54 mL) and the mixture was stirred overnight at rt. The mixture was poured onto ice, made alkaline with aqueous sodium hydroxide (2 N) and extracted three times with a mixture of DCM. The combined organic phases were washed with brine, dried and concentrated in vacuo to give 16 mg of the title compound in 42% overall yield.

reactant | tert-butyl {1-[4-(5-methyl-3-phenylimidazo[1,2-a]pyridin-2-yl)phenyl]cyclobutyl}carbamate | 49 mg | CC1=CC=CC=2N1C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(OC(C)(C)C)=O)C2=CC=CC=C2 | C29H31N3O2
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | DCM | 0.42 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.26 mL | CO | CH4O
solvent | dioxane | 0.54 mL | O1CCOCC1 | C4H8O2
product | 1-[4-(5-methyl-3-phenylimidazo[1,2-a]pyridin-2-yl)phenyl]cyclobutanamine | 16 mg | CC1=CC=CC=2N1C(=C(N2)C2=CC=C(C=C2)C2(CCC2)N)C2=CC=CC=C2 | C24H23N3
